Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Doxycycline / Hydrochlorothiazide / Codeine / Bactrim
 
Attending: ___.
 
Chief Complaint:
anaphylactic shock 
 
Major Surgical or Invasive Procedure:
___ Central Line Placement 

 
History of Present Illness:
___ woman PMHx celiac disease, hypothyroidism, HTN with 
recent urinary frequency concerning for UTI started on Bactrim 
___ by PCP presenting after developing hand and foot swelling / 
pruritis, subsequently developing shock.

Patient was in her USOH until developing urinary frequency at 
the end of ___ after returning from international travel. She 
took an expired course of Bactrim twice a day for 3 days which 
helped these symptoms. She reports recurrence of symptoms ___ 
days PTA for which she called her PCP. She visited her PCP today 
who cultured her urine and prescribed Bactrim. She took the 
medication in the late afternoon, went out for a lecture and 
dinner when she noted swelling of her hands and feet with 
development of diaphoresis and malaise. She called her PCP who 
advised her to take Benadryl and called in a prescription for 
ciprofloxacin. She reports that her symptoms progressed, 
prompted her to head to the ED.

In ED initial VS:  96.0 72 124/24 17 100% RA 
Her blood pressure was noted to decrease in the emergency 
department to SBP ___.

Per documentation, administration of epipen along with 
solumedrol dosing did not help her symptoms and blood pressure 
so epinephrine drip started 

In summary the patient was given:  
___ 18:50 IVF  1L NS 
___ 18:55 IV MethylPREDNISolone Sodium Succ 125 mg 
___ 18:55 IVF  1 L NS 
___ 18:55 IM EPINEPHrine (EpiPEN) .3 mg  
___ 20:08 IV CeftriaXONE   
___ 23:07 IVF  NS ( 1000 mL ordered)  
___ 23:08 IVF  NS ( 1000 mL ordered) 
___ 23:18 IV Vancomycin (1000 mg ordered)
___ 23:18 IV Famotidine (20 mg ordered) 

Imaging notable for:  
___ CXR FINDINGS:  
AP portable upright view of the chest. A right IJ central venous 
catheter is in place with its tip in the region of the 
cavoatrial junction. Lungs are clear. No focal consolidation, 
large effusion or pneumothorax. No signs of congestion or edema. 
Heart size is normal. Mediastinal contour is normal.  Bony 
structures are intact. 
 
IMPRESSION:  
Right IJ central venous catheter terminates in the cavoatrial 
junction. 

VS prior to transfer:  98.8 104 108/55 20 95% RA 
 
On arrival to the MICU, patient reports feeling "tremendously 
better." Reports swelling of the hands and feet, with 
concomitant rash up to the wrists bilaterally in the ED and 
"losing track of herself." Denies personal or family history of 
atopic disorders including asthma or eczema. Reports hx of 
adverse events to medications without prior allergic or 
anaphylactic reaction. She has never had this type of reaction 
in the past. 

 
Past Medical History:
celiac disease, cervical spine syndrome, dyslipidemia, 
cholecystectomy, hypothyroidism, hypertension, obesity, 
osteopenia
 
Social History:
___
Family History:
No family history of atopic disorders including asthma or 
psoriasis
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VITALS: 98.4    89   117/57   17  98%RA 
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN: No obvious urticarial of hands or feet
NEURO:  AAOx3
 

DISCHARGE PHYSICAL EXAM: 
VS: 98.4 61 100/45 95% RA
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN: No obvious urticarial of hands or feet
NEURO:  AAOx3
 
Pertinent Results:
ADMISSION LABS: 
___ 06:50PM BLOOD WBC-7.1 RBC-5.10 Hgb-16.7* Hct-48.9* 
MCV-96 MCH-32.7* MCHC-34.2 RDW-13.9 RDWSD-49.5* Plt ___
___ 06:50PM BLOOD Neuts-40.9 ___ Monos-8.1 Eos-0.7* 
Baso-0.4 Im ___ AbsNeut-2.92 AbsLymp-3.52 AbsMono-0.58 
AbsEos-0.05 AbsBaso-0.03
___ 06:50PM BLOOD Plt ___
___ 06:50PM BLOOD Glucose-133* UreaN-16 Creat-1.2* Na-138 
K-4.2 Cl-100 HCO3-20* AnGap-22*
___ 06:50PM BLOOD ALT-83* AST-78* AlkPhos-87 TotBili-0.5
___ 06:50PM BLOOD Albumin-4.3 Calcium-9.3 Phos-4.5 Mg-2.1
___ 08:01PM BLOOD Type-CENTRAL VE pO2-48* pCO2-33* pH-7.32* 
calTCO2-18* Base XS--8
___ 08:01PM BLOOD Lactate-6.8*
___ 08:01PM BLOOD O2 Sat-79

IMAGING REPORTS: 
CHEST (PORTABLE AP) Study Date of ___  
AP portable upright view of the chest.  A right IJ central 
venous catheter is in place with its tip in the region of the 
cavoatrial junction.  Lungs are clear.  No focal consolidation, 
large effusion or pneumothorax.  No signs of congestion or 
edema.  Heart size is normal.  Mediastinal contour is normal. 
Bony structures are intact. 

DISCHARGE LABS: 
___ 06:14AM BLOOD WBC-14.6*# RBC-3.97 Hgb-13.0# Hct-39.2 
MCV-99* MCH-32.7* MCHC-33.2 RDW-14.5 RDWSD-52.5* Plt ___
___ 06:14AM BLOOD Glucose-244* UreaN-12 Creat-1.2* Na-143 
K-4.0 Cl-114* HCO3-12* AnGap-21*
___ 06:14AM BLOOD ALT-79* AST-58* AlkPhos-68 TotBili-0.2
___ 06:33AM BLOOD ___ pO2-41* pCO2-34* pH-7.25* 
calTCO2-16* Base XS--___ woman PMHx celiac disease, hypothyroidism, HTN with 
recent urinary frequency concerning for UTI started on Bactrim 
___ by PCP presenting after developing hand and foot swelling / 
pruritis, subsequently developing shock in the setting of 
anaphylaxis

#Anaphylactic Shock
In the setting of Bactrim exposure. Admission labs suggestive of 
hemoconcentration, perhaps indicating prolonged systemic 
inflammation. No other infectious sx c/f sepsis. Blood pressures 
improved with epinephrine gtt and solumedrol, as well Benadryl 
and famotidine. Blood pressure stabilized and was off 
epinephrine for > 8 hours prior to discharge. BP and oxygenation 
remained stable with ambulation.  Allergy was consulted: plan 
for prednisone taper over 5 days: ___ (5 days) as 
well as cetirizine 10 BID for 1 week. Was provided an epi-pen in 
case of re-exposure but was instructed to avoid Bactrim / sulfa 
drugs in the future. She was discharged to home when stable. 

#elevated lactate: in setting of anaphylactic shock. Improved 
with epi, fluids. 

# UTI: to continue Cipro for 2 doses to complete course 
(switched to cipro after reaction to Bactrim)

#hypothyroidism: continued home levothyroxine 

#HTN: held home lisinopril in s/o hypotension, to be restarted 
by PCP at ___ appointment. 

#celiac disease: continued on MVI, vit D

# Communication: ___ (husband) ___
# Code: Full (confirmed)  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 137 mcg PO 6X/WEEK (___) 
2. Lisinopril 10 mg PO DAILY 
3. Vitamin D 1000 UNIT PO DAILY 
4. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Cetirizine 10 mg PO BID Duration: 7 Days 
RX *cetirizine 10 mg 1 tablet(s) by mouth twice a day Disp #*14 
Tablet Refills:*0 
2.  Ciprofloxacin HCl 250 mg PO Q12H 
RX *ciprofloxacin HCl 250 mg 1 tablet(s) by mouth twice a day 
Disp #*2 Tablet Refills:*0 
3.  DiphenhydrAMINE 25 mg PO Q6H:PRN itching/rash 
RX *diphenhydramine HCl 25 mg 1 tablet by mouth every eight (8) 
hours Disp #*30 Tablet Refills:*0 
4.  EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1 Duration: 1 Dose 
RX *epinephrine [EpiPen] 0.3 mg/0.3 mL 0.3 mg INJ if needed for 
reaction Disp #*3 Package Refills:*0 
5.  PredniSONE 60 mg PO DAILY 
Tapered dose - DOWN 
RX *prednisone 10 mg 1 tablet(s) by mouth once daily Disp #*18 
Tablet Refills:*0 
6.  Levothyroxine Sodium 137 mcg PO 6X/WEEK (___)  

7.  Multivitamins 1 TAB PO DAILY  
8.  Vitamin D 1000 UNIT PO DAILY  
9. HELD- Lisinopril 10 mg PO DAILY  This medication was held. Do 
not restart Lisinopril until you see your primary care doctor, 
to ensure the blood pressures stable

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
-Anaphylactic Shock secondary to sulfa medication (BACTRIM)

Secondary Diagnosis:
-Celiac Disease
-Hypertension 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ on ___ Medical ICU after you 
started having itching and were found to have what is called 
"anaphylactic shock", which means you had a severe allergic 
reaction, most likely to BACTRIM (which is a SULFA DRUG).

You received steroids and a medication called epinephrine to 
treat this reaction and improved. Because of this reaction, you 
should specifically note this REACTION to SULFA DRUGS in your 
future medical care. 

You are being discharged with close followup with PCP as well as 
an EPIPEN.  If you have any symptoms of an allergic reaction, 
please use the EPI PEN immediately. You also will be on an 
allergy medication for 1 week (cetirizine 10 mg 2/day), and 
Benadryl if needed for itching. 

You will also be on steroids (medications that decrease 
inflammation) for 5 days. 
Day 1 (___): 60 mg (6 tablets of 10 mg)
Day 2 (___):  40 mg ( 4 tablets of 10 mg)
Day 3 (___):  30 mg (3 tablets of 10 mg)
Day 4 (___):  20 mg (2 tablets of 10 mg)
Day 5 (___):  10 mg (1 tablet of 10 mg)

IF YOU HAVE ANY TROUBLE BREATHING, SPREADING RASH, CHEST PAIN, 
LIGHTHEADEDNESS or DIZZINESS, please seek care at an ED 
immediately.

We wish you the best
Your ___ care team 
 
Followup Instructions:
___